US07244728B2
a) 1-(4-chloro-3-trifluoromethyl-phenyl)-2-methyl-propan-1-ol
Prepared analogously to the method described for Example 1a) from 2.3 mL (15 mmol) of 5-bromo-2-chlorobenzotrifluoride and 1.3 mL (14 mmol) isobutyraldehyde. Yellow oil. Yield: 2.0 g (53%).

reactant | 5-bromo-2-chlorobenzotrifluoride | 15 mmol, 2.3 mL | BrC=1C=CC(=C(C1)C(F)(F)F)Cl | C7H3BrClF3
reactant | isobutyraldehyde | 14 mmol, 1.3 mL | C(C(C)C)=O | C4H8O
product | 1-(4-chloro-3-trifluoromethyl-phenyl)-2-methyl-propan-1-ol | ClC1=C(C=C(C=C1)C(C(C)C)O)C(F)(F)F | C11H12ClF3O
